US07041687B2
5-[2-(2-tert-Butoxycarbonylamino-ethylamino)-2-(3-chloro-phenyl)-acetylamino]-indazole-1-carboxylic acid tert-butyl ester:
To a solution of 5-[2-(3-chloro-phenyl)-2-methanesulfonyloxy-acetylamino]-indazole-1-carboxylic acid tert-butyl ester (1.49 mmol) in dry THF (4 mL) was added pyridine (4.48 mmol, 3 equivalents) followed by followed by a dry THF solution of (2-amino-ethyl)-carbamic acid tert-butyl ester (3 equivalents, ˜0.5 mL/mmol). The resulting solution was refluxed at 60° C. overnight. The reaction mixture was then concentrated in vacuo and the resulting oil was partitioned between EtOAc and brine. The organic layer was washed with brine (thrice), dried over sodium sulphate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography using eluting with EtOAc:hexane (60:40) to afford the title compound in 85% yield.

reactant | 5-[2-(3-chloro-phenyl)-2-methanesulfonyloxy-acetylamino]-indazole-1-carboxylic acid tert-butyl ester | 1.49 mmol | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)NC(C(OS(=O)(=O)C)C1=CC(=CC=C1)Cl)=O | C21H22ClN3O6S
reactant | pyridine | 4.48 mmol, 3 equivalents | N1=CC=CC=C1 | C5H5N
reactant | (2-amino-ethyl)-carbamic acid tert-butyl ester | 3 equivalents | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 5-[2-(2-tert-Butoxycarbonylamino-ethylamino)-2-(3-chloro-phenyl)-acetylamino]-indazole-1-carboxylic acid tert-butyl ester | 85% yield | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)NC(C(C1=CC(=CC=C1)Cl)NCCNC(=O)OC(C)(C)C)=O | C27H34ClN5O5
